US08334301B2
2-bromo-1-(2-fluorophenyl)-2-(phenylthio)ethanone
To a solution of 1-(2-fluorophenyl)-2-(phenylthio)ethanone (413 mg) in ethyl acetate (6 mL) were added copper (II) bromide (419 mg) and a 47% solution (2 drops) of hydrogen bromide in acetic acid and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. A saturated aqueous sodium hydrogen carbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound as a brown oil (yield 503 mg, yield 92%).

reactant | 1-(2-fluorophenyl)-2-(phenylthio)ethanone | 413 mg | FC1=C(C=CC=C1)C(CSC1=CC=CC=C1)=O | C14H11FOS
reactant | hydrogen bromide | Br | BrH
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | copper (II) bromide | 419 mg | [Cu](Br)Br
product | 2-bromo-1-(2-fluorophenyl)-2-(phenylthio)ethanone | yield 503 mg, yield 92% | BrC(C(=O)C1=C(C=CC=C1)F)SC1=CC=CC=C1 | C14H10BrFOS
